### ISSUE TITLE
fun_induction: Internal error in `foldAndCollect`: Cannot reduce application

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#10838]
I just defined a relatively hairy recursive definition with nested recursion, and fun induction failed me.

Not minimized for now, but at least with some realistic context:

```
inductive Ty where
  | unit : Ty
  | arrow (t₁ t₂ : Ty) : Ty

def Env (n : Nat) := Fin n → Ty

def Env.add (Γ : Env n) (t : Ty) : Env (n + 1) :=
  Fin.cases t Γ

inductive Term : Env n → Ty → Type where
  | var (i : Fin n) : Term Γ (Γ i)
  | app (e₁ : Term Γ (.arrow t₁ t₂)) (e₂ : Term Γ t₁) : Term Γ t₂
  | lam (e : Term (Γ.add t₁) t₂) : Term Γ (.arrow t₁ t₂)

def Subst (Γ : Env n) (Δ : Env m) := (i : Fin n) → Term Δ (Γ i)

def Subst.id {Γ : Env n} : Subst Γ Γ :=
  fun i => .var i

def Subst.shift {Γ : Env n} : Subst Γ (Γ.add t) :=
  fun i => .var i.succ

def IsVar : Term Γ t → Bool
  | .var _ => true
  | .app _ _ => false
  | .lam _ => false

attribute [simp] IsVar.eq_1 IsVar.eq_2 IsVar.eq_3

def IsRenaming (σ : Subst Γ Δ) : Bool := ∀ i, IsVar (σ i)

@[simp] theorem IsRenaming_shift: IsRenaming (@Subst.shift n t Γ) := by
  simp [IsRenaming, Subst.shift, IsVar]

def Term.subst' (e : Term Γ t) (σ : Subst Γ Δ) :
    {r : Term Δ t // IsVar e → IsRenaming σ → IsVar r } :=
  match e with
  | .var i => ⟨σ i, by grind [IsRenaming]⟩
  | .app e₁ e₂ => ⟨.app (e₁.subst' σ).val (e₂.subst' σ).val, by simp⟩
  | .lam e₁ =>
    let r := .lam (e₁.subst' (Fin.cases (.var 0) (fun i => ((σ i).subst' .shift).1))).1
    ⟨r, by simp⟩
termination_by (if IsVar e then 0 else 1, if IsRenaming σ then 0 else 1, sizeOf e)
decreasing_by
  · apply Prod.Lex.right'
    · grind [IsVar]
    apply Prod.Lex.right
    · decreasing_trivial
  · apply Prod.Lex.right'
    · grind [IsVar]
    apply Prod.Lex.right
    · decreasing_trivial
  · simp
    by_cases h : IsRenaming σ
    · apply Prod.Lex.left
      simp_all [IsRenaming]
    · apply Prod.Lex.right'
      · grind
      apply Prod.Lex.left
      simp [*]
  · simp
    by_cases h : IsRenaming σ
    · apply Prod.Lex.left
      simp_all [IsRenaming]
    · apply Prod.Lex.right'
      · grind
      apply Prod.Lex.left
      simp [*]
  · simp [*]
    apply Prod.Lex.right'
    · grind [IsVar]
    apply Prod.Lex.right'
    · by_cases h : IsRenaming σ
      · simp [h]
        simp [IsRenaming]
        apply Fin.cases
        · simp
        · simp
          intro i
          refine Subtype.property (p := fun r => IsVar (σ i) → IsRenaming Subst.shift → IsVar r) ?_ ?_ ?_
          · simp_all [IsRenaming]
          · simp
      · simp [*]; grind
    · decreasing_trivial

def Term.subst (e : Term Γ t) (σ : Subst Γ Δ) : Term Δ t :=
  (Term.subst' e σ).val

def Subst.shifted (σ : Subst Γ Δ) : Subst (Γ.add t) (Δ.add t) :=
  Fin.cases (Term.var 0) (fun i => ((σ i).subst Subst.shift))

@[simp] theorem shifted_0 (σ : Subst Γ Δ) :
  (Subst.shifted σ (t := t)) 0 = .var 0 := by
  simp [Subst.shifted]

@[simp] theorem shifted_succ (σ : Subst Γ Δ) (i : Fin _):
  (Subst.shifted σ (t := t)) i.succ = (σ i).subst .shift := by
  simp [Subst.shifted]

@[simp] theorem Term.subst_var :
  Term.subst (.var i) σ = σ i := by simp [subst, subst']

@[simp] theorem Term.subst_app :
  Term.subst (.app e₁ e₂) σ = .app (e₁.subst σ) (e₂.subst σ) := by simp [subst, subst']

@[simp] theorem Term.subst_lam :
  Term.subst (.lam e₁) σ =.lam (e₁.subst σ.shifted) := by
  simp [subst, subst', Subst.shifted.eq_unfold]

@[simp] theorem id_shifted  : (@Subst.id _ Γ).shifted (t := t) = Subst.id := by
  funext i
  revert i
  apply Fin.cases
  · simp [Subst.id, Subst.shifted]
  · simp [Subst.id, Subst.shifted, Subst.shift]

def Subst.add (σ : Subst Γ Δ) (e : Term Δ t) : Subst (Γ.add t) Δ :=
  Fin.cases e (fun i => σ i)

theorem subst_id (e : Term Γ t) : e.subst .id = e := by
  induction e <;> simp_all [Subst.id]


theorem subst_subst {Γ : Env n} {Δ : Env n'} {Ω : Env n''} (e : Term Γ t) (σ₁ : Subst Γ Δ) (σ₂ : Subst Δ Ω) :
  (e.subst σ₁).subst σ₂ = (e.subst (fun i => ((σ₁ i).subst σ₂))) := by
  induction e generalizing σ₂ n' n'' Δ Ω
  · simp
  · simp_all
  next t _ ih =>
    simp_all
    congr 1
    apply funext
    apply Fin.cases
    · simp
    · intro i
      simp
      -- Here we would need functional induction
      sorry

theorem subst_subst' {Γ : Env n} {Δ : Env n'} {Ω : Env n''} (e : Term Γ t) (σ₁ : Subst Γ Δ) (σ₂ : Subst Δ Ω) :
  (e.subst σ₁).subst σ₂ = (e.subst (fun i => ((σ₁ i).subst σ₂))) := by
  fun_induction Term.subst' e σ₁ generalizing σ₂ n' n'' Δ Ω
  sorry
```

Error message:
```
Failed to realize constant Term.subst'.induct_unfolding:
  Cannot derive functional induction principle (please report this issue)
    Internal error in `foldAndCollect`: Cannot reduce application of `fun n Γ n_1 Δ σ t₂ t₁ e x =>
      Classical.byContradiction
        (Lean.Grind.intro_with_eq (¬(if IsVar e = true then 0 else 1) ≤ 1) (2 ≤ if IsVar e = true then 0 else 1) False
          (Nat.not_le_eq (if IsVar e = true then 0 else 1) 1) fun h =>
          Or.casesOn (Lean.Grind.em (IsVar e = true))
            (fun h_1 =>
              Lean.Grind.Nat.unsat_le_lo (if IsVar e = true then 0 else 1) 0 2 Lean.Grind.rfl_true
                (Lean.Grind.Nat.le_of_eq_1 (if IsVar e = true then 0 else 1) 0 (ite_cond_eq_true 0 1 (eq_true h_1))) h)
            fun h_1 =>
            Lean.Grind.Nat.unsat_le_lo (if IsVar e = true then 0 else 1) 1 1 Lean.Grind.rfl_true
              (Lean.Grind.Nat.le_of_eq_1 (if IsVar e = true then 0 else 1) 1 (ite_cond_eq_false 0 1 (eq_false h_1)))
              (Lean.Grind.Nat.ro_lo_2 1 0 (if IsVar e = true then 0 else 1) 1 2 Lean.Grind.rfl_true (Nat.le_refl 1)
                h))` in:
      (fun n Γ n_1 Δ σ t₂ t₁ e x =>
          Classical.byContradiction
            (Lean.Grind.intro_with_eq (¬(if IsVar e = true then 0 else 1) ≤ 1) (2 ≤ if IsVar e = true then 0 else 1)
              False (Nat.not_le_eq (if IsVar e = true then 0 else 1) 1) fun h =>
              Or.casesOn (Lean.Grind.em (IsVar e = true))
                (fun h_1 =>
                  Lean.Grind.Nat.unsat_le_lo (if IsVar e = true then 0 else 1) 0 2 Lean.Grind.rfl_true
                    (Lean.Grind.Nat.le_of_eq_1 (if IsVar e = true then 0 else 1) 0 (ite_cond_eq_true 0 1 (eq_true h_1)))
                    h)
                fun h_1 =>
                Lean.Grind.Nat.unsat_le_lo (if IsVar e = true then 0 else 1) 1 1 Lean.Grind.rfl_true
                  (Lean.Grind.Nat.le_of_eq_1 (if IsVar e = true then 0 else 1) 1 (ite_cond_eq_false 0 1 (eq_false h_1)))
                  (Lean.Grind.Nat.ro_lo_2 1 0 (if IsVar e = true then 0 else 1) 1 2 Lean.Grind.rfl_true (Nat.le_refl 1)
                    h)))
        n✝² Γ n✝ Δ σ t₂✝ t₁✝ e✝ x✝¹
```

### Versions

Lean 4.24.0

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Some MWE’ing:

```
inductive Ty where
  | unit : Ty
  | arrow (t₁ t₂ : Ty) : Ty

def Env (n : Nat) := Fin n → Ty

def Env.add (Γ : Env n) (t : Ty) : Env (n + 1) :=
  Fin.cases t Γ

inductive Term : Env n → Ty → Type where
  | var (i : Fin n) : Term Γ (Γ i)
  | app (e₁ : Term Γ (.arrow t₁ t₂)) (e₂ : Term Γ t₁) : Term Γ t₂
  | lam (e : Term (Γ.add t₁) t₂) : Term Γ (.arrow t₁ t₂)

def Subst (Γ : Env n) (Δ : Env m) := (i : Fin n) → Term Δ (Γ i)

def Subst.id {Γ : Env n} : Subst Γ Γ :=
  fun i => .var i

def Subst.shift {Γ : Env n} : Subst Γ (Γ.add t) :=
  fun i => .var i.succ

def IsVar : Term Γ t → Bool
  | .var _ => true
  | .app _ _ => false
  | .lam _ => false

attribute [simp] IsVar.eq_1 IsVar.eq_2 IsVar.eq_3

def IsRenaming (σ : Subst Γ Δ) : Bool := ∀ i, IsVar (σ i)

def Term.subst' (e : Term Γ t) (σ : Subst Γ Δ) :
    {r : Term Δ t // IsVar e → IsRenaming σ → IsVar r } :=
  match e with
  | .var i => ⟨σ i, by sorry⟩
  | .app e₁ e₂ => ⟨.app (e₁.subst' σ).val (e₂.subst' σ).val, by sorry⟩
  | .lam e₁ =>
    let r := .lam (e₁.subst' (Fin.cases (.var 0) (fun i => ((σ i).subst' .shift).1))).1
    ⟨r, by sorry⟩
termination_by (if IsVar e then 0 else 1, if IsRenaming σ then 0 else 1, sizeOf e)
decreasing_by
  · sorry
  · sorry
  · sorry
  · sorry
  · simp [*]
    apply Prod.Lex.right'
    · grind
    apply Prod.Lex.right'
    · sorry
    · sorry

/--
error: Failed to realize constant Term.subst'.induct:
  Cannot derive functional induction principle (please report this issue)
    Internal error in `foldAndCollect`: Cannot reduce application of `fun n Γ n_1 Δ σ t₂ t₁ e x =>
      Classical.byContradiction
        (Lean.Grind.intro_with_eq (¬(if IsVar e = true then 0 else 1) ≤ 1) (2 ≤ if IsVar e = true then 0 else 1) False
          (Nat.not_le_eq (if IsVar e = true then 0 else 1) 1) fun h =>
          Or.casesOn (Lean.Grind.em (IsVar e = true))
            (fun h_1 =>
              id
                (Lean.Grind.Nat.unsat_le_lo (if IsVar e = true then 0 else 1) 0 2 Lean.Grind.rfl_true
                  (Lean.Grind.Nat.le_of_eq_1 (if IsVar e = true then 0 else 1) 0 (ite_cond_eq_true 0 1 (eq_true h_1)))
                  h))
            fun h_1 =>
            id
              (Lean.Grind.Nat.unsat_le_lo (if IsVar e = true then 0 else 1) 1 1 Lean.Grind.rfl_true
                (Lean.Grind.Nat.le_of_eq_1 (if IsVar e = true then 0 else 1) 1 (ite_cond_eq_false 0 1 (eq_false h_1)))
                (Lean.Grind.Nat.ro_lo_2 1 0 (if IsVar e = true then 0 else 1) 1 2 Lean.Grind.rfl_true (Nat.le_refl 1)
                  h)))` in:
      (fun n Γ n_1 Δ σ t₂ t₁ e x =>
          Classical.byContradiction
            (Lean.Grind.intro_with_eq (¬(if IsVar e = true then 0 else 1) ≤ 1) (2 ≤ if IsVar e = true then 0 else 1)
              False (Nat.not_le_eq (if IsVar e = true then 0 else 1) 1) fun h =>
              Or.casesOn (Lean.Grind.em (IsVar e = true))
                (fun h_1 =>
                  id
                    (Lean.Grind.Nat.unsat_le_lo (if IsVar e = true then 0 else 1) 0 2 Lean.Grind.rfl_true
                      (Lean.Grind.Nat.le_of_eq_1 (if IsVar e = true then 0 else 1) 0
                        (ite_cond_eq_true 0 1 (eq_true h_1)))
                      h))
                fun h_1 =>
                id
                  (Lean.Grind.Nat.unsat_le_lo (if IsVar e = true then 0 else 1) 1 1 Lean.Grind.rfl_true
                    (Lean.Grind.Nat.le_of_eq_1 (if IsVar e = true then 0 else 1) 1
                      (ite_cond_eq_false 0 1 (eq_false h_1)))
                    (Lean.Grind.Nat.ro_lo_2 1 0 (if IsVar e = true then 0 else 1) 1 2 Lean.Grind.rfl_true
                      (Nat.le_refl 1) h))))
        n✝² Γ n✝ Δ σ t₂✝ t₁✝ e✝ x✝¹
---
error: Unknown constant `Term.subst'.induct`
-/
#guard_msgs in
#print Term.subst'.induct
```
